US08106221B2
A solution of 3-chlorobenzenamine (10 g, 0.079 mol), Cu(OAc)2 (0.5 g, 5% by weight of m-chloroaniline), and acrylonitrile, was heated to reflux. Refluxing was continued for 3 h with the temperature rising to about 130° C. After the reaction was complete, acrylonitrile was stripped under reduced pressure and the residue purified by column chromatography to afford the pure product 3-(3-chlorophenylamino)propanenitrile (8 g, yield 67%). 1HNMR δ 2.6 (m, 2H), 3.5 (m, 2H), 4.1 (m, 1H), 6.45 (m, 1H), 6.55 (m, 1H), 7.1 (m, 1H).

reactant | 3-chlorobenzenamine | 0.079 mol, 10 g | ClC=1C=C(C=CC1)N | C6H6ClN
reactant | acrylonitrile | C(C=C)#N | C3H3N
catalyst | Cu(OAc)2 | 0.5 g | CC(=O)[O-].CC(=O)[O-].[Cu+2]
product | 3-(3-chlorophenylamino)propanenitrile | 8 g, yield 67% | ClC=1C=C(C=CC1)NCCC#N | C9H9ClN2
